US08754242B2
A solution of 2,4,6-trimethyl-1-bromobenzene (30.9 g, 155 mmol) in tetrahydrofuran (100 ml) is added slowly to magnesium turnings (3.77 g, 155 mmol), until the magnesium is just covered. A small quantity of iodine is added and the mixture is allowed to stand at room temperature for 25 minutes and then heated and stirred until the brown colour is lost. The remainder of the aryl bromide solution is added dropwise over a 20 minute period, with occasional heating to maintain the formation of the Grignard reagent solution. The reaction is stirred at room temperature for 1 hour. A solution of furfural (12.8 ml, 155 mmol) in tetrahydrofuran (70 ml) is added dropwise, and once the addition is complete, the reaction is stirred at room temperature for 2 hours. The reaction is quenched by cautious addition of excess saturated ammonium chloride solution, then extracted into ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by column chromatography on silica gel affords (2,4,6-trimethylphenyl)furan-2-ylmethanol.

reactant | 2,4,6-trimethyl-1-bromobenzene | 155 mmol, 30.9 g | CC1=C(C(=CC(=C1)C)C)Br | C9H11Br
reactant | magnesium | 155 mmol, 3.77 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | furfural | 155 mmol, 12.8 ml | C(C1=CC=CO1)=O | C5H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | (2,4,6-trimethylphenyl)furan-2-ylmethanol | CC1=C(C(=CC(=C1)C)C)C(O)C=1OC=CC1 | C14H16O2
